US08461328B2
Propionic acid (0.0176 ml, 0.320 mmol), HATU (0.122 g, 0.320 mmol), and diisopropylethylamine (0.062 ml, 0.358 mmol) were added sequentially to a solution of 3-[4-(5-amino-1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-piperidin-1-yl]-butyronitrile (0.134 g, 0.305 mmol) in a 4:1 mixture of CH2Cl2 and DMF (5 ml) at 25° C. The reaction mixture was stirred for 14 h at 25° C., then was partitioned between saturated NaHCO3 (4 ml) and CH2Cl2 (3 ml). The phases were separated using a phase separator column (Biotage) and the organic layer was concentrated under reduced pressure to afford crude N-{1-benzenesulfonyl-4-[1-(2-cyano-1-methyl-ethyl)-piperidin-4-ylamino]-1H-pyrrolo[2,3-b]pyridin-5-yl}-propionamide as a brown oil. LCMS (Method G, ESI): RT=0.60 min, m+H=495.3. This material was used in the next step below without additional purification or characterization.

reactant | Propionic acid | 0.320 mmol, 0.0176 ml | C(CC)(=O)O | C3H6O2
reactant | HATU | 0.320 mmol, 0.122 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 0.358 mmol, 0.062 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-[4-(5-amino-1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-piperidin-1-yl]-butyronitrile | 0.305 mmol, 0.134 g | NC=1C(=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=CC=C2)NC2CCN(CC2)C(CC#N)C | C22H26N6O2S
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-{1-benzenesulfonyl-4-[1-(2-cyano-1-methyl-ethyl)-piperidin-4-ylamino]-1H-pyrrolo[2,3-b]pyridin-5-yl}-propionamide | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2NC2CCN(CC2)C(CC#N)C)NC(CC)=O | C25H30N6O3S
